US04410354
Embodiment XX--2-Ethyl-2-(phenylmethoxymethyl)-1,8-dioxaspiro[4.5]-decane
Following procedures similar to those of Embodiments XVII-XIX, 2.50 g of 2-ethyl-1,8-dioxaspiro[4.5]decane-2-methanol was treated with 2.35 g of benzyl bromide in the presence of sodium hydride to yield 0.90 g of the desired product as a clear liquid, b.p. 130° C. (0.15 mm).

reactant | 2-ethyl-1,8-dioxaspiro[4.5]decane-2-methanol | 2.50 g | C(C)C1(OC2(CC1)CCOCC2)CO | C11H20O3
reactant | benzyl bromide | 2.35 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium hydride | [H-].[Na+]
product | 2-Ethyl-2-(phenylmethoxymethyl)-1,8-dioxaspiro[4.5]-decane | 0.90 g | C(C)C1(OC2(CC1)CCOCC2)COCC2=CC=CC=C2 | C18H26O3
